US08859591B2
A flask was charged with 5-bromo-2-chloro-3-methylpyridine (250 mg, 1.21 mmol), 4-(trifluoromethyl)-1H-pyrazole (165 mg, 1.21 mmol), potassium carbonate (512 mg, 3.63 mmol), and anhydrous dimethylformamide (1.21 mL). The reaction was heated at 85 to 130° C. for 36 h. The reaction was concentrated to give 690 mg of crude material. Purification by silica gel flash chromatography (0-5% ethyl acetate in heptane) afforded 5-bromo-3-methyl-2-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridine (containing approximately 30% starting material) was carried forth to the next reaction. MS (M+1) 308.1.

reactant | 5-bromo-2-chloro-3-methylpyridine | 1.21 mmol, 250 mg | BrC=1C=C(C(=NC1)Cl)C | C6H5BrClN
reactant | 4-(trifluoromethyl)-1H-pyrazole | 1.21 mmol, 165 mg | FC(C=1C=NNC1)(F)F | C4H3F3N2
reactant | potassium carbonate | 3.63 mmol, 512 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1.21 mL | CN(C=O)C | C3H7NO
product | 5-bromo-3-methyl-2-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridine | approximately 30% | BrC=1C=C(C(=NC1)N1N=CC(=C1)C(F)(F)F)C | C10H7BrF3N3
